US04254116
5,5-Dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-5H-[1]benzopyrano[3,4-d]pyridine
A mixture of 4.20 g. of 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine, 0.8 g. of 10% palladium on carbon and 80 ml. of xylene was stirred and refluxed for 25 hours. After cooling, the catalyst was removed by filtration. The filtrate was evaporated in vacuo and the product was recrystallized from autonitrile; m.p. 155°-157°.

reactant | 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)O)C2=C1CCNC2)C | C23H35NO2
catalyst | palladium on carbon | [Pd] | Pd
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 5,5-Dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-5H-[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)O)C=2C1=CC=NC2)C | C23H31NO2
